US08217052B2
2-[2-Fluoro-4-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-phenyl]-9-oxa-2-aza-spiro[5.5]undecan-1-one
4-{3-[2-Fluoro-4-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-phenylamino]-propyl}-tetrahydro-pyran-4-carboxylic acid methyl ester (40 mg, 0.1 mmol, 1 eq) was dissolved in 2 mL of THF and cooled to 0° C., where a 2.5 M solution of n-BuLi in heptanes (0.11 mL, 0.17 mmol, 3 eq) was added drop-wise and the ice bath was removed. After 30 min the reaction mixture was quenched with water, transferred to a separatory funnel and extracted with diethyl ether (2×50 mL). The combined organics were dried over Na2SO4 and purified by column chromatography on silica gel (40 g column, 10% MeOH in CH2Cl2; 35 mL/min). This gave 38 mg (98%) of the title compound as an off-white gum.

reactant | 4-{3-[2-Fluoro-4-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-phenylamino]-propyl}-tetrahydro-pyran-4-carboxylic acid methyl ester | 0.1 mmol, 40 mg, 1 eq | COC(=O)C1(CCOCC1)CCCNC1=C(C=C(C=C1)N1C[C@H](CC1)N1[C@H](CCC1)C)F | C25H38FN3O3
reactant | n-BuLi | [Li]CCCC
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-[2-Fluoro-4-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-phenyl]-9-oxa-2-aza-spiro[5.5]undecan-1-one | FC1=C(C=CC(=C1)N1C[C@H](CC1)N1[C@H](CCC1)C)N1C(C2(CCC1)CCOCC2)=O | C24H34FN3O2
